US05240941
Using the procedure described in Example 1, except that the reaction mixture was heated to 90° C. for 2 hours, 4-[5-fluoro-3-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-ylmethoxy)phenyl]-4-methoxytetrahydropyran was reacted with Lawesson's Reagent to give 4-[5-fluoro-3-(1-methyl-2-thioxo-1,2,3,4-tetrahydroquinolin-6-ylmethoxy)phenyl]-4-methoxytetrahydropyran in 28% yield, m.p. 136°-138° C.

reactant | 4-[5-fluoro-3-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-ylmethoxy)phenyl]-4-methoxytetrahydropyran | FC=1C=C(C=C(C1)C1(CCOCC1)OC)OCC=1C=C2CCC(N(C2=CC1)C)=O | C23H26FNO4
reactant | Lawesson's Reagent | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
product | 4-[5-fluoro-3-(1-methyl-2-thioxo-1,2,3,4-tetrahydroquinolin-6-ylmethoxy)phenyl]-4-methoxytetrahydropyran | 28% yield | FC=1C=C(C=C(C1)C1(CCOCC1)OC)OCC=1C=C2CCC(N(C2=CC1)C)=S | C23H26FNO3S
